US08252826B2
9.2 [2-(4-Chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester
In analogy to the procedure described in example 1.3, 2-cyclohexyl-3-oxo-3-(2-oxo-cycloheptyl)-propionic acid ethyl ester was condensed with (4-chloro-phenyl)-hydrazine (CAS Reg. No. 1073-69-4) in ethanol to give the title compound as orange oil. MS: m/e=415.3 [M+H+].

reactant | 2-cyclohexyl-3-oxo-3-(2-oxo-cycloheptyl)-propionic acid ethyl ester | C(C)OC(C(C(C1C(CCCCC1)=O)=O)C1CCCCC1)=O | C18H28O4
reactant | (4-chloro-phenyl)-hydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | ethanol | C(C)O | C2H6O
product | [2-(4-Chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester | C(C)OC(C(C1CCCCC1)C=1N(N=C2C1CCCCC2)C2=CC=C(C=C2)Cl)=O | C24H31ClN2O2
